US05102667
(3aRS,7aRS)-7,7-bis-(3-tolyl)-2-vinyloxycarbonyl-4-perhydroisoindolone (7.4 g) is treated with a 6N solution (39 cc) of hydrochloric acid in dioxane for 30 minutes at 25° C. The solution is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is taken up in ethanol (100 cc). The solution is heated at 60° C. for 2 hours and stirred for 16 hours at 25° C. and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is solidified using isopropyl ether and the solid is washed, drained and dried. 7,7-bis-(3-Tolyl)-4-perhydroisoindolone hydrochloride (6.36 g) is obtained in the form of a yellow solid.

reactant | (3aRS,7aRS)-7,7-bis-(3-tolyl)-2-vinyloxycarbonyl-4-perhydroisoindolone | 7.4 g | C1(=CC(=CC=C1)C1(CCC(C2CN(CC12)C(=O)OC=C)=O)C=1C=C(C=CC1)C)C | C25H27NO3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7,7-bis-(3-Tolyl)-4-perhydroisoindolone hydrochloride | 6.36 g | Cl.C1(=CC(=CC=C1)C1(CCC(C2CNCC12)=O)C=1C=C(C=CC1)C)C | InChI=1S/C22H25NO.ClH/c1-15-5-3-7-17(11-15)22(18-8-4-6-16(2)12-18)10-9-21(24)19-13-23-14-20(19)22;/h3-8,11-12,19-20,23H,9-10,13-14H2,1-2H3;1H
